US07601716B2
{4-[1-(2-Chloro-3,6-difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]phenyl}-(4-methylpiperazin-1-yl)methanone
1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (100 mg) was reacted with (4-methylpiperazin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone as in General Procedure 4A to give the title compound as a pale yellow foam (17% yield). M.p. (foam), LCMS: m/z=499.43 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.33 (s, 3H), 2.36-2.52 (m, 4H), 3.26-3.33 (m, 2H), 3.52-3.56 (m, 2H), 3.52-3.86 (m, 4H), 4.53 (s, 2H), 5.00 (bs, 1H), 6.97-7.04 (m, 1H), 7.10 (s, 1H), 7.11-7.17 (m, 1H), 7.44 (dd, J=8.4 Hz, 1.8 Hz, 2H), 7.52 (dd, J=8.3 Hz, 1.8 Hz, 2H), 7.74 (d, J=1.8 Hz, 1H).

reactant | 1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 100 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C(=CC=C1F)F | C14H11ClF2IN3
reactant | (4-methylpiperazin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H27BN2O3
product | {4-[1-(2-Chloro-3,6-difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]phenyl}-(4-methylpiperazin-1-yl)methanone | 17% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C=C3)C(=O)N3CCN(CC3)C)C(=CC=C1F)F | C26H26ClF2N5O
